US05432169
To a suspension of 5.5 g of Nail (60% dispersion in mineral oil) in 400 ml of dry tetrahydrofuran 7.0 g of 17β)-(3-furyl)-5β-androstane-3β,14β-diol (II-a: Ref, comp.) (Minato H. and Nagasaki T., J. Chem. Soc.(C), 1966, 377) were added at room temperature in a nitrogen atmosphere. The mixture was kept at reflux for 6 hrs, then 26 ml of bromoacetaldehyde diethylacetal were added; the suspension was kept at reflux temperature for 4 hrs, 50 ml of water were added cautiously, and the tetrahydrofuran was distilled under reduced pressure. The residue was extracted with methylene chloride, the organic layer was dried over anhydrous sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 80/20 as eluant to give 6.9 g of 3β-(2,2-diethoxy-ethoxy)-17β-(3-furyl)-5β-androstan-14β-ol, as a dense oil.

reactant | (3-furyl)-5β-androstane-3β,14β-diol | O1C=C(C=C1)C[C@@]12CCC[C@@]1([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C23H34O3
reactant | bromoacetaldehyde diethylacetal | 26 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 400 ml, 7.0 g | O1CCCC1 | C4H8O
product | 3β-(2,2-diethoxy-ethoxy)-17β-(3-furyl)-5β-androstan-14β-ol | 6.9 g | C(C)OC(CO[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O)OCC | C29H46O5
